US05002942
2-Amino-5-(4-fluorophenoxy)benzenethiol
22 g of 2-amino-6-(4-fluorophenoxy)benzothiazole (prepared as described in preparation 7) were added to a mixture of a solution of 90 g of potassium hydroxide in 100 ml of water and 28 ml of ethylene glycol, and the mixture was stirred for 2 hours on an oil bath kept at 130° C under an atmosphere of nitrogen. After the mixture had been cooled to room temperature, 90 ml of acetic acid was added dropwise to the resulting homogenous solution to deposit a precipitate: this was extracted with toluene. The toluene extract was dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, to afford 16 g of the title compound as a pale yellow solid.

reactant | 2-amino-6-(4-fluorophenoxy)benzothiazole | 22 g | NC=1SC2=C(N1)C=CC(=C2)OC2=CC=C(C=C2)F | C13H9FN2OS
reactant | potassium hydroxide | 90 g | [OH-].[K+]
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | ethylene glycol | 28 ml | C(CO)O | C2H6O2
product | 2-Amino-5-(4-fluorophenoxy)benzenethiol | 16 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)F)S | C12H10FNOS
